Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dysarthria, fluent aphasia 

 
Major Surgical or Invasive Procedure:
na
 
History of Present Illness:
The patient is a ___ year-old R-handed man with history of atrial
fibrillation on Coumadin, hypertension, hyperlipidemia, and
migraine who presents with acute onset of dysarthria and fluent
aphasia.

Patient was in his usual state of health until approximately 2 
___
today.  He was last known well when eating with his wife at 1 
___.
When his wife spoke with him after he had finished eating lunch,
at approximately 2 ___, she noted that he was "not able to talk
clearly," with speech that at times was intelligible and other
times was unintelligible.  He was noted to say frequent
nonsensical words and had difficulty expressing himself.  For
example, he was pointing to the sink saying "I need blah" while
trying to say "I need water."  Speech comprehension was intact;
patient was able to state his telephone number to wife when
asked. No weakness, no facial droop, no visual loss, no
lateralizing features. He initially was reluctant to go to the 
ED
for further evaluation, but eventually agreed due to ongoing
concern by his wife. During transport to hospital wife notes 
that
he was frustrated with traffic and had difficulty finding words
to express himself. 

Patient presented to ___ for further evaluation. A
telestroke was called. NIHSS was 4 (unclear what specific 
scoring
was). Patient was not determined to be a tPA candidate given
duration of symptoms and anticoagulation use.  His INR was 2.1 
at
evaluation. He had a NCHCT which revealed significant atrophy,
bilateral white matter changes, evidence of prior bilateral
thalamic chronic infarcts, L>R which was unchanged from prior
imaging.  

Notably:
- Mr. ___ wife reports that he has an asymmetric smile at
baseline. She is not sure which side is lower than the other. 
She
believes the LEFT face has a mild droop at baseline. However, I
reviewed his license photo and it appears that he has a mild
RIGHT facial droop in the photo. 
- Has a history of "TIA" vs Migraine in ___ after presenting
with confusion and fall. 

At baseline, patient has mild anomia and short term memory loss.
No baseline weakness or speech difficulties. Uses a cane to
ambulate. Independent with finances and activities of daily
living. He drives at baseline. 

The patient and wife report that his dysarthria and speech has
improved, but he is not back to baseline. 

 
Past Medical History:
History of "TIA" vs Migraine in ___ with confusion
Visual migraines
Atrial fibrillation
Hyperlipidemia
HTN
 
Social History:
___
Family History:
Father with stroke in ___. Sister with dementia, same sister's
___ has ___ 
 
Physical Exam:
Physical Exam:
Vitals: T: 98.4F, HR 77 (Aflutter vs Afib), BP 149/83, RR 18, O2
96% RA

General: Awake, cooperative, NAD.
HEENT: Face is somewhat flushed bilaterally.  NC/AT, no scleral
icterus noted, MMM, no lesions noted in oropharynx
Neck: Supple, No nuchal rigidity
Pulmonary: Breathing nonlabored on room air
Cardiac: Warm and well perfused
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Awake, alert, oriented to self and ___. Not
oriented to year (says it is ___, says month is "manuary." 
Able
to relate some elements of history, however speech often
transitions to frequent paraphasic errors and neologisms. 
Maintains attention to examiner.  Language is fluent with intact
comprehension.  He can repeat single words, but is unable to
repeat phrases such as "today is a ___ day."  He makes
frequent literal/phonologic paraphasic errors, such as calling a
feather a "doother," chair a "car," and "nonth" for month.  At
other times, he transitions to neologisms. Normal prosody. Pt 
was
able to name low frequency objects but not high frequency
objects.  Able to read without difficulty.  Speech had mild
dysarthria.  Able to follow both midline and appendicular
commands, though did require prompting for more complex 
commands.
The pt had good knowledge of current events. There was no
evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to finger wiggling. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout.  Mild right upper 
extremity
pronation was noted, with no drift.  No orbiting noted.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl  FE  IO  IP   Quad  Ham TA   ___
L  5    ___   5    ___     5    5   5      5     5
R  5    ___   5    ___     5    5   5      5     5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS.

-DTRs:
  ___ Tri ___ Pat Ach
L 3   3    3   2+   2
R 3   3    3   2+   2
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, No dysmetria on FNF or HKS
bilaterally.

-Gait: deferred 

DC exam is notable for normal language examination. Right facial 
weakness and right pronator drift. remainder of exam is 
unchanged from prior
 
Pertinent Results:
___ 11:39PM BLOOD WBC-9.3 RBC-4.51* Hgb-14.9 Hct-43.5 
MCV-97 MCH-33.0* MCHC-34.3 RDW-12.7 RDWSD-45.5 Plt ___
___ 04:45AM BLOOD ___ PTT-41.9* ___
___ 11:39PM BLOOD ___ PTT-39.2* ___
___ 04:45AM BLOOD Glucose-93 UreaN-17 Creat-1.0 Na-138 
K-4.3 Cl-103 HCO3-24 AnGap-15
___ 11:39PM BLOOD ALT-40 AST-92* AlkPhos-35* TotBili-0.7
___ 04:45AM BLOOD ALT-33 AST-31 LD(LDH)-170 CK(CPK)-160 
AlkPhos-51 TotBili-0.7
___ 04:45AM BLOOD CK-MB-3 cTropnT-<0.01
___ 04:45AM BLOOD Triglyc-77 HDL-30 CHOL/HD-3.7 LDLcalc-66
___ 04:45AM BLOOD %HbA1c-5.2 eAG-103
___ 04:45AM BLOOD TSH-2.0
___ 11:39PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:47PM BLOOD Lactate-2.1* K-4.4

Brain MRI
1. Small acute infarction in the right anterior parietal deep 
and subcortical white matter. 
2. Extensive confluent signal abnormalities in the 
supratentorial white matter are again seen, nonspecific but 
likely sequela of chronic small vessel ischemic disease in this 
age group. 
3. Numerous chronic micro hemorrhages are again seen throughout 
the brain 
parenchyma, which may be related to a combination of 
hypertensive etiology and amyloid angiopathy. 

video swallow:
Several episodes of deep penetration with 1 episode of 
aspiration. Moderate delay of swallowing initiation. 

 
Brief Hospital Course:
Transitions of care:
Pt is currently on a dysphagia diet and needs repeat swallow 
study and follow up with speech & swallow. 

_____________________________________

Dr. ___ is an ___ year-old R-handed man with history of atrial 
fibrillation on Coumadin, hypertension and hyperlipidemia who 
presented with acute onset of dysarthria and aphasia. He was not 
a tPA candidate at the OSH due to time since last known well and 
INR 1.9. His exam improved quickly here. MRI showed a Small 
acute infarction in the right anterior parietal deep and 
subcortical 
white matter. The MRI did also show multiple micro bleeds 
concerning for CAA. The patient has been stable on Coumadin for 
many years and having active ischemic events so we believed he 
was safe to continue on anticoagulation. We discussed the 
patient's case with his cardiology and the patient himself - the 
decision was made to switch to rivaroxaban for ongoing 
anticoagulation. 

_____________________________________
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No
2. DVT Prophylaxis administered? (x) Yes - () No
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No
4. LDL documented? (x) Yes (LDL = 66) - () No
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 100) () Yes - (x) No [if 
LDL >100, reason not given: ]
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No
9. Discharged on statin therapy? (x) Yes - () No [if LDL >100, 
reason not given: ]
10. Discharged on antithrombotic therapy? x() Yes [Type: () 
Antiplatelet - (x) Anticoagulation] - () No
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Verapamil 40 mg PO Q12H 
3. Atorvastatin 10 mg PO QPM 
4. Warfarin 2.5 mg PO DAILY16 
5. Tamsulosin 0.4 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Calcium Carbonate 500 mg PO Frequency is Unknown 
8. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Rivaroxaban 20 mg PO DINNER  
2.  Calcium Carbonate 500 mg PO DAILY  
3.  Atorvastatin 10 mg PO QPM  
4.  Lisinopril 10 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Tamsulosin 0.4 mg PO DAILY  
7.  Verapamil 40 mg PO Q12H  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Cerebral embolism with infarction 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Dr. ___, 

___ were hospitalized due to symptoms of slurred speech and 
speaking difficulty resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.

Stroke can have many different causes, so we assessed ___ for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:
-atrial fibrillation
-high blood pressure
-high cholesterol 
-prior history of possible TIA

We spoke with your cardiologist, and in conjunction with his 
recommendations, we are changing your medications as follows:
-Stop taking warfarin
-Start taking rivaroxaban (Xarelto) 20mg by mouth in the evening 
with dinner

Please take your other medications as prescribed.

Please follow up with Neurology and your primary care physician 
as listed below.

If ___ experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
___
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___